US09120804B2
1-{4-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-cyclopropanecarboxylic acid amide (“C64”)
1-{4-[8-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-cyclopropanecarbonitrile is dissolved in methanol before potassiumcarbonate (5 eq.), DMSO (3.5 eq) and hydrogeneperoxide (30% solution, 5.eq) are added. The mixture is stirred for 5 h and monitored via LCMS MS. DMSO (3.5 eq) and hydrogeneperoxide (30% solution, 5.eq) ares added and the mixture iss stirred at rt for 16 h. The mixture is concentrated and the crude material purified via column chromatographie. LCMS purity (Method D): 100%, Rt: 1.70 min, observed [M+H]=375.1;

reactant | 1-{4-[8-(1-Methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-cyclopropanecarbonitrile | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)NC2=CC=C(C=C2)C2(CC2)C#N | C19H16N8
reactant | potassiumcarbonate | 5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 3.5 eq | CS(=O)C | C2H6OS
reactant | DMSO | 3.5 eq | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | 1-{4-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-cyclopropanecarboxylic acid amide | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)NC2=CC=C(C=C2)C2(CC2)C(=O)N | C19H18N8O
